US04567189
4-Methoxyphenylpropanol (15 g, 0.090M) was added dropwise to a stirred slurry of sodium hydride (4.0 g of a 60% dispersion in oil, 0.10M) in dry tetrahydrofuran (100 ml) and the stirred mixture was heated at 60° C. for 1 hour under a gentle stream of dry nitrogen. On cooling, epibromohydrin (12.8 g, 0.0934M) was added and the mixture was stirred at ambient temperature for 65 hours. The solvent was evaporated off under reduced pressure and the residue was treated with water (800 ml) and extracted with dichloromethane. The combined extracts were dried (Na2SO4) and the solvent was evaporated off under reduced pressure to give the crdue product which was further purified by chromotography (silica gel, dichloromethane) to give 2,3-epoxypropyl-4-methoxyphenylpropyl ether as a colourless oil.

reactant | 4-Methoxyphenylpropanol | 0.090M, 15 g | COC1=CC=C(C=C1)C(CC)O | C10H14O2
reactant | sodium hydride | [H-].[Na+]
reactant | epibromohydrin | 0.0934M, 12.8 g | C(Br)C1CO1 | C3H5BrO
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,3-epoxypropyl-4-methoxyphenylpropyl ether | O1C(CC(CCOCCC(CC2CO2)C2=CC=C(C=C2)OC)C2=CC=C(C=C2)OC)C1 | C26H34O5
